US04863949
3-(2-Amino-1,1-dimethylethylamino)-1-(3-methylbenzimidazol-4-yloxy)-propan-2-ol
10.2 g. 2,3-Epoxy-1-(3-methylbenzimidazol-4-yloxy)-propane are added to 40.3 g. 2-dibenzylamino-1,1-dimethylethylamine (prepared analogously to H. G. Johnson, J.A.C.S., 68, 12/1946) in 300 ml. ethanol and the reaction mixture is stirred for 3 days at ambient temperature. The reaction mixture is now hydrogenated at 60° C. over 8 g. palladium-charcoal (10%) until the take up of hydrogen is finished. The catalyst is then filtered off with suction and the filtrate evaporated to dryness. The residue is chromatographed on silica gel with methanol/concentrated aqueous ammonia solution (95:5 v/v). The appropriate fractions are evaporated, the residue is taken up in methylene chloride and dried over anhydrous sodium sulphate and the solution is evaporated to dryness. There are obtained 8.7 g. (66% of theory) of the desired product as a pale yellow oil.

reactant | 2,3-Epoxy-1-(3-methylbenzimidazol-4-yloxy)-propane | O1C(COC2=CC=CC=3N=CN(C32)C)C1 | C11H12N2O2
reactant | 2-dibenzylamino-1,1-dimethylethylamine | C(C1=CC=CC=C1)N(CC(C)(C)N)CC1=CC=CC=C1 | C18H24N2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-Amino-1,1-dimethylethylamino)-1-(3-methylbenzimidazol-4-yloxy)-propan-2-ol | NCC(C)(C)NCC(COC1=CC=CC=2N=CN(C21)C)O | C15H24N4O2
